US05169838
Preparation of 2-ethyl-7-hydroxy-4H-1-benzopyran-4-one
A suspension of 6.5 g (21.5.10-3 mol) of 2-ethyl-7-(1-oxopropoxy)-3-(1-oxopropyl)-4H-1benzopyran-4-one and 5 g (47.403 mol) of sodium carbonate in 65 ml of water is kept at a temperature of 150° C. for 9 hours. The reaction mixture is hydrolyzed with a 1N solution of hydrochloric acid. The product is extracted with ethyl acetate. After purification by chromatography on silica gel using an ether/methylene chloride mixture (1/2 v/v) as the eluent, 2.45 g (yield: 61%) of the expected product are obtained.

reactant | 2-ethyl-7-(1-oxopropoxy)-3-(1-oxopropyl)-4H-1benzopyran-4-one | 6.5 g | C(C)C=1OC2=C(C(C1C(CC)=O)=O)C=CC(=C2)OC(CC)=O | C17H18O5
reactant | sodium carbonate | 47.403 mol, 5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ether methylene chloride | CCOCC.C(Cl)Cl
solvent | water | 65 ml | O | H2O
product | 2-ethyl-7-hydroxy-4H-1-benzopyran-4-one | 2.45 g, yield: 61% | C(C)C=1OC2=C(C(C1)=O)C=CC(=C2)O | C11H10O3
